US07612114B2
6-{2-{2-[4-(2-Azepan-1-ylethoxy)-3-fluorophenyl]ethyl}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 2-fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol and 1-(2-chloroethyl)azepane hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-{2-fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}azepane (203 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (119 mg).

reactant | 2-fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol | FC1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)O | C26H27FO3
reactant | 1-(2-chloroethyl)azepane hydrochloride | Cl.ClCCN1CCCCCC1
reactant | 1-{2-{2-fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenoxy}ethyl}azepane | 203 mg | FC1=C(OCCN2CCCCCC2)C=CC(=C1)CCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H42FNO3
product | 6-{2-{2-[4-(2-Azepan-1-ylethoxy)-3-fluorophenyl]ethyl}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 119 mg | N1(CCCCCC1)CCOC1=C(C=C(C=C1)CCC1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)F | C32H38FNO3
